US06914062B2
1) Ethyl [methoxy(methyl)amino]oxoacetate
Ethyloxalyl chloride (15.2 g, 92.7 mmol) and N,O-dimethylhydroxylamine hydrochloride (9.00 g, 92.3 mmol) were added to chloroform (180 ml) at 0° C. To the mixture was gradually added triethylamine (18.6 g, 184 mmol) under stirring. After the mixture was allowed to warm up to room temperature, the mixture was stirred for 30 minutes, and then methanol (30 ml) was added thereto. The reaction solution was concentrated in vacuo to give a residue, to which was added tetrahydrofuran. The resulting precipitates were filtered off, and the filtrate was concentrated. The residue was distilled to give the title compound (7.47 g) as a pale yellow oil.

reactant | Ethyloxalyl chloride | 92.7 mmol, 15.2 g | CCC(=O)C(=O)Cl | C4H5ClO2
reactant | N,O-dimethylhydroxylamine hydrochloride | 92.3 mmol, 9.00 g | Cl.CNOC
reactant | chloroform | 180 ml | C(Cl)(Cl)Cl | CHCl3
reactant | triethylamine | 184 mmol, 18.6 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | 30 ml | CO | CH4O
product | Ethyl [methoxy(methyl)amino]oxoacetate | 7.47 g | CON(C)C(C(=O)OCC)=O | C6H11NO4
